US07705025B2
[4-(5-Methanesulfonyl-thiophen-2-yl)-phenyl]-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to General Procedure D in 8 mL 37% DMF/dichloromethane using 4-(5-methanesulfonyl-thiophen-2-yl)-benzoic acid, Lithium salt (92 mg, 0.32 mmol), EDC-HCl (92 mg, 0.48 mmol), HOBt (65 mg, 0.48 mmol), DIEA (0.14 mL, 0.8 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (45 mg, 0.29 mmol) to give the title compound (60 mg, 57% yield). MS (ES+) 419.2 (M+H)+

reactant | 4-(5-methanesulfonyl-thiophen-2-yl)-benzoic acid | CS(=O)(=O)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C12H10O4S2
reactant | Lithium | 0.32 mmol, 92 mg | [Li] | Li
reactant | EDC-HCl | 0.48 mmol, 92 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.48 mmol, 65 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.8 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.29 mmol, 45 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 8 mL | CN(C)C=O.ClCCl
product | [4-(5-Methanesulfonyl-thiophen-2-yl)-phenyl]-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 60 mg, 57% yield | CS(=O)(=O)C1=CC=C(S1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H26N2O3S2
